US07612089B2
A. Preparation of 4-(4-methyl-2-homopiperazinon-1-yl)phenylamine
A mixture of 4-iodoaniline (70 mg, 0.32 mmol), 4-methyl-2-homopiperazinone (35 mg, 0.27 mmol), K3PO4 (135 mg, 0.64 mmol) and 1,2-trans-diaminocyclohexane (16 uL, 0.13 mmol) in dioxane (4 mL) was degassed with Ar before being charged with CuI (18 mg, 0.095 mmol). The mixture in a sealed tube was heated at 110 C overnight. The mixture was then purified by a silica gel prep-TLC using CH2Cl2/MeOH (95/5) as solvents to give the titled compound (9 mg). MS 220.5 (M+H).

reactant | 4-iodoaniline | 0.32 mmol, 70 mg | IC1=CC=C(N)C=C1 | C6H6IN
reactant | 4-methyl-2-homopiperazinone | 0.27 mmol, 35 mg | CN1CC(NCCC1)=O | C6H12N2O
reactant | K3PO4 | 0.64 mmol, 135 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-trans-diaminocyclohexane | 0.13 mmol, 16 uL | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.095 mmol, 18 mg | [Cu]I
product | 4-(4-methyl-2-homopiperazinon-1-yl)phenylamine | 9 mg | CN1CC(N(CCC1)C1=CC=C(C=C1)N)=O | C12H17N3O
